US04273773
1,2,3,4,6,10b-Hexahydro-1-oxo-2-phenylmethyl-pyrazino[2,1-a]isoindole-6-carboxylic Acid Methyl Ester (IX; R5, R8, R9, R10, R11, R18 and R19 =H; R7 =phenylmethyl, and Alk=Me)
N-(Phenylmethyl)ethylene diamine (10.38 g) is added dropwise to a solution of α,α'-dibromo-1,2-benzenediacetic acid dimethyl ester [24 g, described by G. Cignarella and A. Vigevani, Gazz. Chim. Ital., 98, 1474 (1968)] in benzene (600 ml). The mixture is refluxed for 6 hr, cooled and filtered. The filtrate is evaporated and the residue is chromatographed on silica gel using diethyl ether-methanol (9:1). The appropriate fractions are evaporated to give isomer A (5.7 g) of the title compound, nmr (CDCl3) δ3.3(m), 3.8(s), 4.6(d), 4.92(d), 5.30(d) and 7.3-7.8(m). The eluant for the above chromatography is changed to methanol-diethyl ether (3:7) and the appropriate eluate fractions are evaporated to give isomer B (4.1 g) of the title compound, nmr (CDCl3) δ3.3(m), 3.8(s), 4.6(d), 4.92(d), 5.30(d) and 7.3-7.8(m).

reactant | N-(Phenylmethyl)ethylene diamine | 10.38 g | C1(=CC=CC=C1)CNCCN | C9H14N2
reactant | α,α'-dibromo-1,2-benzenediacetic acid dimethyl ester | COC(C(C=1C(=CC=CC1)C(C(=O)OC)Br)Br)=O | C12H12Br2O4
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 1,2,3,4,6,10b-Hexahydro-1-oxo-2-phenylmethyl-pyrazino[2,1-a]isoindole-6-carboxylic Acid Methyl Ester | 5.7 g | COC(=O)C1N2C(C3=CC=CC=C13)C(N(CC2)CC2=CC=CC=C2)=O | C20H20N2O3
